US06589970B2
Oxalyl chloride (11.86 mL, 136 mmol) was added dropwise to a solution of 1-methyl-1H-indole-3-carboxylic acid (4.76 g, 27 mmol) in 100 mL of methylene chloride. A rapid evolution of gas was observed. The reaction stirred at room temperature for 17 h (overnight). The solvent was removed under reduced pressure to give a pink solid To remove any excess oxalyl chloride the solid was dissolved in benzene and the solvent removed under reduced pressure to give 1-methyl-1H-indole-3-carbonyl chloride which was immediately used in step 2 without additional purification.

reactant | Oxalyl chloride | 136 mmol, 11.86 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-methyl-1H-indole-3-carboxylic acid | 27 mmol, 4.76 g | CN1C=C(C2=CC=CC=C12)C(=O)O | C10H9NO2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-methyl-1H-indole-3-carbonyl chloride | CN1C=C(C2=CC=CC=C12)C(=O)Cl | C10H8ClNO
